2205-05-27 07:59:00 Physician Resident Progress Note
Chief Complaint: SOB, COPD flare.
   24 Hour Events:
   - Has been getting IVF bolus to keep her UOP up.  She has received 5L
   NSS thus far - lung exam started to have mild crackles at the L lung
   base, and a CXR earlier was clear.
   - Tol PS trial at PS 12 PEEP 8 with MV of around 5 with RR unchanged.
   TF held at 3 am.  RISB in the 50s this AM.  Weaning down on PS and SBT
   this AM.
   - Spontaneous Breathing Trial
 unsuccessful.
   Subjective:
   Patient is not sedated, but is intubated.  She answers yes/no questions
   and follows commands. She reports feeling slightly better this
   morning.  She denies cough, SOB, CP, fevers, chills.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2205-5-26**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2205-5-27**] 12:23 AM
   Midazolam (Versed) - [**2205-5-27**] 05:07 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-5-27**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 105 (96 - 120) bpm
   BP: 138/61(80) {92/43(55) - 147/83(99)} mmHg
   RR: 14 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  8,177 mL
                                                                  1,675 mL
   PO:
             TF:
                                                                    250 mL
                                                                     95 mL
   IVF:
                                                                  4,127 mL
                                                                  1,579 mL
   Blood products:
   Total out:
                                                                    506 mL
                                                                    227 mL
   Urine:
                                                                    451 mL
                                                                    227 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,671 mL
                                                                  1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 460 (460 - 460) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/48/92.[**Numeric Identifier 1176**]/26/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Lungs: CTA anteriorly
   CV: RRR, S1 & S2 nl, no M/R/G
   ABD: +BS, slightly distended abdomen, non-tender, soft.
   Ext: warm, dry,  no cyanosis or clubbing
   Labs / Radiology
   330 K/uL
   10.3 g/dL
   141 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   21 mg/dL
   108 mEq/L
   142 mEq/L
   34.2 %
   23.7 K/uL
        [image002.jpg]
                             [**2205-5-26**]  04:52 AM
                             [**2205-5-26**]  05:28 AM
                             [**2205-5-26**]  03:01 PM
                             [**2205-5-26**]  03:14 PM
                             [**2205-5-26**]  08:23 PM
                             [**2205-5-26**]  10:04 PM
                             [**2205-5-27**]  04:35 AM
                             [**2205-5-27**]  04:51 AM
   WBC
   23.7
   Hct
   36.1
   37.8
   34.2
   Plt
   330
   Cr
   0.6
   0.6
   TropT
   0.04
   TCO2
   35
   32
   28
   27
   Glucose
   101
   141
   Other labs: PT / PTT / INR:12.8/26.6/1.1, CK / CKMB /
   Troponin-T:54/6/0.04, Differential-Neuts:96.8 %, Band:0.0 %, Lymph:1.4
   %, Mono:1.6 %, Eos:0.1 %, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   MICROBIOLOGY: [**5-26**]
   Sputum culture growing Strep pneumonia
   Urine culture contaminated
   Blood cx: pending.
   Assessment and Plan
   A/P: 61 yo F with a history of CAD and COPD with multiple prior
   intubations for COPD flares admitted with respiratory failure requiring
   intubation.
   .
   # Respiratory failure. Likely secondary to COPD exacerbation. Possible
   infectious exacerbation in the setting of fevers on presentation to the
   ED.
   - Continue Stress-dose steroids Methylprednisolone 125 mg IV Q8hr
   - Continue home montelukast, levalbuterol, tiotropium.
   - Antibiotic coverage with levofloxacin.
   .
   # Leukocytosis
 afebrile for past 24 hrs.  WBC trending down.
   - F/U blood culture results.   Growing Strep in sputum.
   .
   # Guaiac positive stool, coffee-ground emesis on OG lavage. Known
   gastritis.
   - Continue PPI.
   - Active type and screen.
   - Trend Hct.
   .
   # CAD s/p MI's.
   - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
   # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   - Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Pain control.
   - Continue home fentanyl, percocet and lidocaine.
   .
   # Prophylaxis: Heparin subq, PPI, Bowel regimen PRN, sliding scale
   insulin.
   .
   # FEN: Regular diet.
   .
   # Access: Peripheral IV's.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Presumed full.
   .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2205-5-26**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-05-28 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2205-5-27**] 10:00 AM
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-5-28**] 12:00 AM
   Fentanyl - [**2205-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-5-28**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 106 (105 - 125) bpm
   BP: 146/73(89) {125/57(80) - 159/96(103)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  2,297 mL
                                                                    215 mL
   PO:
                  TF:
                                                                    512 mL
                                                                    215 mL
   IVF:
                                                                  1,695 mL
   Blood products:
   Total out:
                                                                    816 mL
                                                                     54 mL
   Urine:
                                                                    811 mL
                                                                     54 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,481 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (324 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   10.5 g/dL
   141 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   21 mg/dL
   108 mEq/L
   142 mEq/L
   34.6 %
   19.3 K/uL
        [image002.jpg]
                             [**2205-5-26**]  04:52 AM
                             [**2205-5-26**]  05:28 AM
                             [**2205-5-26**]  03:01 PM
                             [**2205-5-26**]  03:14 PM
                             [**2205-5-26**]  08:23 PM
                             [**2205-5-26**]  10:04 PM
                             [**2205-5-27**]  04:35 AM
                             [**2205-5-27**]  04:51 AM
                             [**2205-5-28**]  05:21 AM
   WBC
   23.7
   19.3
   Hct
   36.1
   37.8
   34.2
   34.6
   Plt
   330
   357
   Cr
   0.6
   0.6
   TropT
   0.04
   TCO2
   35
   32
   28
   27
   Glucose
   101
   141
   Other labs: PT / PTT / INR:12.8/26.6/1.1, CK / CKMB /
   Troponin-T:54/6/0.04, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: 61 yo F with a history of CAD and COPD with multiple prior
   intubations for COPD flares admitted with respiratory failure requiring
   intubation.
   .
   # Respiratory failure. Likely secondary to COPD exacerbation. Possible
   infectious exacerbation in the setting of fevers on presentation to the
   ED.
    - Continue Stress-dose steroids Methylprednisolone 125 mg IV Q8hr
   - Continue home montelukast, levalbuterol, tiotropium.
   - Antibiotic coverage with levofloxacin.
   .
   # Leukocytosis
 afebrile for past 24 hrs.  WBC trending down.
   - F/U blood culture results.   Growing Strep in sputum.
   .
   # Guaiac positive stool, coffee-ground emesis on OG lavage. Known
   gastritis.
    - Continue PPI.
   - Active type and screen.
   - following HCT.
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
    - Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
    # Pain control.
   - Continue home fentanyl.
   .
   # Prophylaxis: Heparin subq, PPI, Bowel regimen PRN, sliding scale
   insulin.
   .
   # FEN: Regular diet.
   .
   # Access: Peripheral IV's.
   PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Presumed full.
    .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2205-5-28**] 01:48 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-05-28 14:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2205-5-27**] 10:00 AM
   Changed IV steroids to PO in light of history of severe steroid
   psychosis.
   Failed spontaneous breathing trial [**4-1**].
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Levo 750 mg PO (day 3 on [**5-28**])
   Infusions:
   Other ICU medications:
   Fentanyl - [**2205-5-28**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2205-5-28**] 08:30 AM
   Furosemide (Lasix) - [**2205-5-28**] 12:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-5-28**] 02:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 116 (103 - 118) bpm
   BP: 149/68(88) {137/60(79) - 159/96(103)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  2,297 mL
                                                                    577 mL
   PO:
                  TF:
                                                                    512 mL
                                                                    487 mL
   IVF:
                                                                  1,695 mL
   Blood products:
   Total out:
                                                                    816 mL
                                                                  1,223 mL
   Urine:
                                                                    811 mL
                                                                  1,223 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,481 mL
                                                                   -646 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (324 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 9.3 L/min
   Physical Examination
   Gen
 uncomfortable, tachypneic
   CV
 reg tachy, no m/r/r
   Pulm
 diffuse wheezes R>L, no rales, rhonchi
   Abd
 soft, distended, NT, tympanic BS absent
   Ext
 WWP, +PP, no c/c/e
   Labs / Radiology
   357 K/uL
   10.5 g/dL
   142 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   28 mg/dL
   107 mEq/L
   143 mEq/L
   34.6 %
   19.3 K/uL
        [image002.jpg]
                             [**2205-5-26**]  04:52 AM
                             [**2205-5-26**]  05:28 AM
                             [**2205-5-26**]  03:01 PM
                             [**2205-5-26**]  03:14 PM
                             [**2205-5-26**]  08:23 PM
                             [**2205-5-26**]  10:04 PM
                             [**2205-5-27**]  04:35 AM
                             [**2205-5-27**]  04:51 AM
                             [**2205-5-28**]  05:21 AM
   WBC
   23.7
   19.3
   Hct
   36.1
   37.8
   34.2
   34.6
   Plt
   330
   357
   Cr
   0.6
   0.6
   0.6
   TropT
   0.04
   TCO2
   35
   32
   28
   27
   Glucose
   101
   141
   142
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:54/6/0.04, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   A/P: 61 yo F with a history of CAD and COPD with multiple prior
   intubations for COPD flares admitted with respiratory failure requiring
   intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Failed [**Last Name (LF) **], [**First Name3 (LF) 178**] repeat when lung fluid burden
   diminished with diuresis.
   - Cont. current vent settings
    - Predisone 30 mg daily
   - Add [**Hospital1 **] flovent to home regimen montelukast, levalbuterol,
   tiotropium.
   - Cont. levofloxacin (day 3) for strep + sputum Cx
   - Fluid goal:  -1.5 L x 24 hrs
 20 mg IV lasix now, assess UOP
   response
   .
   #Abd pain/distention. c/f narcotic ileus
   -KUB
   -uptitrate bowel regimen
   .
   #Leukocytosis . Remained afebrile. WBC trending down.
   -Strep + sputum, cont. levoflox
   -f/u Ucx
   .
   # Guaiac positive stool, coffee-ground emesis on OG lavage. Known
   gastritis.
    - Continue PPI.
   - Active type and screen.
   - following HCT.
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
    - Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
    # Pain control/sedation
   - Continue home fentanyl. Versed PRN
   .
   # Prophylaxis: SQH, PPI, bowel regimen, ISS
   .
   # FEN: TF at goal w/o residuals. Replete PO4. Fluid goal: - 1.5 L x 24
   hrs
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Presumed full.
    .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2205-5-28**] 01:48 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-05-29 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started on captopril 6.25 tid for SBPs in the 150-160s in the setting
   of sinus tach 100s-110s; repeated ABG at 0300 7.45/60/88/43 on 40%
   fio2; normal KUB (had some abd distention, pain this AM).  Good
   diuresis overnight.  RISB 63.  [** **] planned for this am was
   unsuccessful.
   SUBJECTIVE:
   Patient reports that she is uncomfortable with ET tube and has some
   anxiety r/t tube.  SOB is improved but not back to baseline.  No
   fevers, no chills.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2205-5-28**] 07:20 PM
   Midazolam (Versed) - [**2205-5-28**] 10:14 PM
   Heparin Sodium (Prophylaxis) - [**2205-5-29**] 12:15 AM
   Fentanyl - [**2205-5-29**] 03:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-5-29**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 124 (104 - 124) bpm
   BP: 157/99(106) {137/60(79) - 172/79,118(137)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 100%  RA
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,326 mL
                                                                    359 mL
   PO:
             TF:
                                                                    844 mL
                                                                    239 mL
   IVF:
                                                                    283 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  4,093 mL
                                                                    930 mL
   Urine:
                                                                  4,093 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,767 mL
                                                                   -570 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (400 - 501) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/60/87.[**Numeric Identifier 244**]/40/14
   Ve: 8.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: intubated communicates with yes/no or by writing
   CV: RRR, S1 & S2 nl, no M/R/G
   Lung: wheezes diffusely, rhochi in LLL
   Abd: distended +bs, soft, non-tender, no masses
   Ext: warm dry good perfusion.
   Labs / Radiology
   357 K/uL
   10.5 g/dL
   118 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.2 mEq/L
   26 mg/dL
   96 mEq/L
   142 mEq/L
   34.6 %
   19.3 K/uL
        [image002.jpg]
                             [**2205-5-26**]  05:28 AM
                             [**2205-5-26**]  03:01 PM
                             [**2205-5-26**]  03:14 PM
                             [**2205-5-26**]  08:23 PM
                             [**2205-5-26**]  10:04 PM
                             [**2205-5-27**]  04:35 AM
                             [**2205-5-27**]  04:51 AM
                             [**2205-5-28**]  05:21 AM
                             [**2205-5-28**]  09:53 PM
                             [**2205-5-29**]  04:06 AM
   WBC
   23.7
   19.3
   Hct
   36.1
   37.8
   34.2
   34.6
   Plt
   330
   357
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.04
   TCO2
   32
   28
   27
   43
   Glucose
   101
   141
   142
   118
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:54/6/0.04, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Sputum Cx
 Pneumococcus, [**Last Name (un) **] pending.
   KUB:  [**2205-5-28**]  No evidence of obstruction or ileus.
   ECHO  [**2205-5-27**]   moderate MR.
   CXR:Final Report
   CLINICAL HISTORY: Evaluate for interval change.
   Single AP chest radiograph compared to [**2205-5-27**] shows new left
   basilar
   opacity which likely represents a combination of atelectasis and
   effusion. The
   remainder of the exam is unchanged. ET tube terminates 3.4 cm above the
   carina. NG tube enters the stomach, the tip has been excluded. Tip of
   right
   PICC overlies the proximal right atrium.
   Assessment and Plan
   A/P: 61 yo F with a history of CAD and COPD with multiple prior
   intubations for COPD flares admitted with respiratory failure requiring
   intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Failed [**Last Name (LF) **], [**First Name3 (LF) 178**] repeat when lung fluid burden
   diminished with diuresis.
   - Cont. current vent settings
    - Predisone decrease to 20 mg daily
   - Add [**Hospital1 **] flovent to home regimen montelukast, levalbuterol,
   tiotropium.
   - Cont. levofloxacin (day 4) for strep + sputum Cx
   - Fluid goal:  -1 L x 24 hrs
lasix 20mg [**Hospital1 **], assess UOP response
   .
   #Abd pain/distention. c/f narcotic ileus
   -          Continue with bowel regimen
   #HTN/Tachycardia
   - increase dose of captopril to 12.5mg TID and diltiazem 30 PO QID
   .
   #Leukocytosis
 Trending down
   .
   # Guaiac positive stool, coffee-ground emesis on OG lavage. Known
   gastritis.
    - Continue PPI.
   - Active type and screen.
   - following HCT.
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
    - Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
    # Pain control/sedation
   - Continue home fentanyl. Versed PR
   .
   # Prophylaxis: SQH, PPI, bowel regimen, D/C insulin sliding scale as
   blood sugars have been good.
   .
   # FEN: TF for possible extubation.  TF at goal w/o residuals. Replete
   PO4. Fluid goal: - 1.5 L x 24 hrs
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Presumed full.
    .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2205-5-29**] 04:53 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-05-30 06:58:00 Physician Resident Progress Note
Chief Complaint: SOB from COPD Flare.
   24 Hour Events:
   Patient had SOB on PSV 10/5 yesterday afternoon and was tachy and HTN
   at the same time.  She was diaphoretic.  Checked an EKG (no acute
   ischemia/infarct) and enzymes.  We gave a 250 cc fluid bolus with the
   thought that we were diuresing her too fast.  Starting dilt and
   increased captopril dose.
   Since she was having difficulty breathing on PSV yesterday afternoon,
   we changed vent to Assist control and restarted TF with the idea of
   resting her overnight and trying to extubate this am.  TF held since 2
   am and patient switched back to PSV this morning.  RISB of 77 this am.
   Doing [** **] now.
   SUBJECTIVE:
   Patient states her SOB is better this morning than yesterday.  Not sure
   if back to baseline.  Patient
s abdominal pain is still bothersome
   approx the same as yesterday.  She hasn
t had a BM in 2 days.  No
   nausea or vomiting, fevers, chills.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-5-29**] 08:00 AM
   Midazolam (Versed) - [**2205-5-29**] 10:00 PM
   Fentanyl - [**2205-5-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-5-30**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 106 (106 - 129) bpm
   BP: 140/80(93) {126/53(76) - 164/87(104)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   Weight: 50 kg
   Admission wt: 52 kg
                  Total In:
                                                                  1,508 mL
                                                                     35 mL
   PO:
                  TF:
                                                                    738 mL
                                                                      5 mL
   IVF:
                                                                    530 mL
   Blood products:
   Total out:
                                                                  3,965 mL
                                                                    155 mL
   Urine:
                                                                  3,965 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,457 mL
                                                                   -120 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 377 (350 - 458) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 26 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 7.6 L/min
   Physical Examination
   Gen: intubated but alert and communicates by nodding or writing. NAD.
   CV: RRR, S1 & S2 nl, no M/R/G, 2+ radial pulses bilat.
   Lungs: wheezes diffusely, crackles at LLL.
   Abd:+BS, distended, soft, tender to palpation in epigastric area.
   Ext: warm dry.  No cyanosis, clubbing or edema.
   Labs / Radiology
   308 K/uL
   11.5 g/dL
   94 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.1 mEq/L
   23 mg/dL
   94 mEq/L
   139 mEq/L
   36.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2205-5-27**]  04:35 AM
                             [**2205-5-27**]  04:51 AM
                             [**2205-5-28**]  05:21 AM
                             [**2205-5-28**]  09:53 PM
                             [**2205-5-29**]  04:06 AM
                             [**2205-5-29**]  05:21 AM
                             [**2205-5-29**]  11:47 AM
                             [**2205-5-29**]  09:30 PM
                             [**2205-5-30**]  12:00 AM
                             [**2205-5-30**]  05:25 AM
   WBC
   23.7
   19.3
   19.0
   13.6
   Hct
   34.2
   34.6
   37.7
   36.9
   Plt
   [**Telephone/Fax (3) 3441**]08
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   0.03
   TCO2
   27
   43
   Glucose
   141
   142
   118
   78
   109
   98
   94
   Other labs: PT / PTT / INR:11.7/25.7/1.0,
   CK / CKMB / Troponin-T:33/3/0.03,
   Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5 %, Mono:3.5 %, Eos:0.2
   %,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**5-30**] (prelim read pending)  imaging system not working.
   Microbiology: Sputum cx -- S. pneumoniae [**Last Name (un) **]. to Ceftriaxone
   Levofloxacin, Vanco
   Urine cx - NGTD
   Blood cx from ED still pending
   ECG: Sinus tach at rate of 130.  No acute ischemic changes.  no recent
   infarct.
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Good diuresis overnight.  [**Month/Day (2) **] done this morning
   patient appears to be extubatable.
   - Cont. current vent settings
    - Predisone decrease to 20 mg daily
 continue for 2 more days then
   taper to 10mg.
   - Add [**Hospital1 **] flovent to home regimen montelukast, levalbuterol,
   tiotropium.
   - Cont. levofloxacin (day 5) for Pneumococcus.  Cx [**Last Name (un) **] to levo.
   - Fluid goal:  1L out.
   -Give  lasix dose and attempt extubation 1 hour later.  [**Month (only) 60**] have to go
   from tube to mask vent on bipap.
   #Abd pain/distention. c/f narcotic ileus
   -  Continue with bowel regimen.  On PPI if gastritis is cause of pain.
   Patient is bloated/gasy.
    .
   #HTN/Tachycardia
   - increase dose of captopril to 25mg TID and diltiazem 30 PO QID
   .
   #Leukocytosis
 Trending down
   .
   # Guaiac positive stool, coffee-ground emesis on OG lavage. Known
   gastritis.
    - Continue PPI.
   - Active type and screen.
   - following HCT.
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
    - Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
    # Pain control/sedation
   - Continue home fentanyl. Versed PR
   .
   # Prophylaxis: SQH, PPI, bowel regimen, D/C insulin ss d/c
   .
   # FEN: TF held for possible extubation.  Fluid goal: - 1.5 L x 24 hrs
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Presumed full.
    .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-05-31 07:10:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2205-5-30**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2205-5-30**] 02:00 PM
   Pt started on NIV/ Full mask at 1400 on PS 12/ 5 PEEP FIO2 .40.
 NON-INVASIVE VENTILATION - STOP [**2205-5-30**] 03:00 PM
   Pt started on NIV/ Full mask at 1400 on PS 12/ 5 PEEP FIO2 .40.
   Waxing/[**Doctor Last Name 42**] confusion, worsening anxiety throughout the early morning
   with occasional desaturation into 80
s% on 40% face mask.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsTetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2205-5-30**] 09:43 AM
   Lansoprazole (Prevacid) - [**2205-5-30**] 12:20 PM
   Lorazepam (Ativan) - [**2205-5-30**] 01:29 PM
   Heparin Sodium (Prophylaxis) - [**2205-5-31**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Wheeze
   Flowsheet Data as of  [**2205-5-31**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (102 - 122) bpm
   BP: 139/61(81) {123/48(73) - 153/100(107)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                    495 mL
                                                                     30 mL
   PO:
                                                                    210 mL
                                                                     30 mL
   TF:
                                                                      5 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    475 mL
   Urine:
                                                                  2,315 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,820 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (410 - 581) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.46/57/62/40/13
   Ve: 16 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffuse anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): person, [**1-29**], Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   331 K/uL
   12.0 g/dL
   98 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.3 mEq/L
   18 mg/dL
   94 mEq/L
   142 mEq/L
   39.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2205-5-28**]  05:21 AM
                             [**2205-5-28**]  09:53 PM
                             [**2205-5-29**]  04:06 AM
                             [**2205-5-29**]  05:21 AM
                             [**2205-5-29**]  11:47 AM
                             [**2205-5-29**]  09:30 PM
                             [**2205-5-30**]  12:00 AM
                             [**2205-5-30**]  05:25 AM
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
   WBC
   19.3
   19.0
   13.6
   15.7
   Hct
   34.6
   37.7
   36.9
   39.8
   Plt
   357
   333
   308
   331
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   TropT
   0.03
   TCO2
   43
   42
   Glucose
   142
   118
   78
   109
   98
   94
   98
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Extubated to non-invasive ventilation.
   Substantial work of breathing to maintain oxygen saturation on 40% face
   mask.
   - BiPAP as tolerated
   -Increase frequency of nebs to q2h
   - Cont. diuresis, volume goal -1.5 x 24 hrs.
    - Predisone taper to 15 mg
   - [**Hospital1 **] flovent in addition to home regimen montelukast, levalbuterol,
   tiotropium.
   - Cont. levofloxacin (day [**5-4**]) for pneumococcal bronchitis vs.
   pneumonia
    .
   #Delirium
 [**12-29**] combination hypercarbia, steroids, sundowning
   -zyprexa zydis PRN
   -taper steroids
   -ventilate as above
   -frequent reorientation, reassurance
   .
   #HTN/Tachycardia
   -increase dose of captopril to 50 mg TID
   -diltiazem 30 PO QID
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   -          Continue home vitamin D supplementation.
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Prophylaxis: SQH, PPI, bowel regimen
   .
   # F/E/N: Fluid goal: - 1.5 L x 24 hrs; clear liquid diet in case
   intubation required
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Full
    .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2205-06-01 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2205-5-31**] 09:15 AM
 NON-INVASIVE VENTILATION - STOP [**2205-5-31**] 09:45 AM
 NON-INVASIVE VENTILATION - START [**2205-5-31**] 12:00 PM
 NON-INVASIVE VENTILATION - STOP [**2205-5-31**] 12:59 PM
 NON-INVASIVE VENTILATION - START [**2205-5-31**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2205-5-31**] 05:01 PM
   Diuresed 1.8 L [**2205-5-31**]
   No longer on BiPAP; doing well on NC 5L
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2205-5-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2205-5-31**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2205-6-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-6-1**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 102 (102 - 117) bpm
   BP: 147/60(80) {97/48(66) - 179/133(138)} mmHg
   RR: 19 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                    160 mL
                  PO:
                                                                    160 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    155 mL
   Urine:
                                                                  2,025 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,865 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 1,036) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.45/62/58/39/15
   Ve: 13.2 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: NAD, alert and oriented
   CV: RRR,  no M/R/G
   Lungs:  mild effort, on nasal cannula, diffuse wheezing bilaterally
   Abd: decreased bs, soft, ntnd
   Ext: warm, 2+ radial pulses, 1+ pedal pulses, no edema
   Labs / Radiology
   331 K/uL
   12.0 g/dL
   95 mg/dL
   0.7 mg/dL
   39 mEq/L
   3.6 mEq/L
   21 mg/dL
   91 mEq/L
   140 mEq/L
   39.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2205-5-29**]  11:47 AM
                             [**2205-5-29**]  09:30 PM
                             [**2205-5-30**]  12:00 AM
                             [**2205-5-30**]  05:25 AM
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
   WBC
   13.6
   15.7
   Hct
   36.9
   39.8
   Plt
   308
   331
   Cr
   0.6
   0.6
   0.7
   0.8
   0.7
   TropT
   0.03
   TCO2
   42
   48
   44
   Glucose
   109
   98
   94
   98
   95
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Extubated to non-invasive ventilation.  Pt doing
   well on NC 5L.
   - decreased nebs to q4h
   - Cont. diuresis, volume goal -1.5 x 24 hrs.
    - Cont. Predisone taper to 15 mg
   - [**Hospital1 **] flovent in addition to home regimen montelukast, levalbuterol,
   tiotropium.
   - Last dose of levofloxacin (day [**6-3**]) today for pneumococcal bronchitis
   vs. pneumonia
   #Delirium
 [**12-29**] combination hypercarbia, steroids, sundowning
   -zyprexa zydis PRN
   -continue steroid taper
   -ventilate as above
   -frequent reorientation, reassurance
   #HTN/Tachycardia
   - switch from captopril 40mg po TID to lisinopril 40mg daily
   - continue diltiazem 30 PO QID; plan to increase to 60mg po qid
   tomorrow if tolerates diuresis
   .
   # CAD s/p MI's.
    - Continue plavix, statin.
   .
   # Gastritis. Continue PPI.
   .
    # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   -          Continue home vitamin D supplementation.
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Prophylaxis: SQH, PPI, bowel regimen
   .
   # F/E/N:  Nutrition consult for high protein shakes
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Full
    .
   # Dispo: floor if tolerating diuresis and nebs q4h
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-06-02 06:53:00 Physician Resident Progress Note
Chief Complaint: COPD flare
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2205-6-1**] 02:00 PM
 NON-INVASIVE VENTILATION - STOP [**2205-6-1**] 02:58 PM
   Patient was placed on CPAP 2 x over the past 24 hours for SOB and
   tachpnea on NC.
   Awaiting nutrition consult for high protein diet.
   Recieved Lasix 20mg x2 yesterday with marginal diuresis.
   Subjective:
   Patient feels better this am.  SOB much improved.  No new cough, no
   fevers, chills, no urinary discomfort.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2205-5-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-6-1**] 08:36 AM
   Furosemide (Lasix) - [**2205-6-1**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-6-2**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 114 (106 - 123) bpm
   BP: 118/37(58) {98/34(51) - 154/78(84)} mmHg
   RR: 17 (9 - 27) insp/min
   SpO2: 100%  6 L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.4 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    850 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    330 mL
   Urine:
                                                                  1,335 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -485 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/66/85.[**Numeric Identifier 128**]/39/16
   Ve: 12.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: A&O x2, comfortable, NAD
   Lungs: CTA anteriorly no wheezes, rales or rhonchi.
   CV: rapid rate, regular rhythm.  S1 & S2 nl, no M/R/G
   Abd: +BS, NT, mild distension, no masses
   Ext: LE edema decreased bilat
   Labs / Radiology
   322 K/uL
   11.4 g/dL
   101 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.8 mEq/L
   26 mg/dL
   95 mEq/L
   142 mEq/L
   37.8 %
   20.9 K/uL
        [image002.jpg]
                             [**2205-5-30**]  05:25 AM
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
   WBC
   13.6
   15.7
   20.9
   Hct
   36.9
   39.8
   37.8
   Plt
   [**Telephone/Fax (3) 3499**]
   Cr
   0.6
   0.7
   0.8
   0.7
   1.1
   TCO2
   42
   48
   44
   46
   Glucose
   94
   98
   95
   182
   101
   Other labs:
   PT / PTT / INR:11.7/25.7/1.0,
   CK / CKMB / Troponin-T:33/3/0.03,
   Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5 %, Mono:3.5 %, Eos:0.2
   %,
    Ca++:10.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   CXR: [**2205-6-2**] final.
   As compared to the previous examination, there is no major change. No
   newly
   occurred parenchymal opacity suggestive of pneumonia, no pleural
   effusion, no
   pneumothorax. The size of the cardiac silhouette is also unchanged.
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation.
   .
   # Respiratory failure. [**12-29**] COPD exacerbation in the setting of
   respiratory infection. Extubated to non-invasive ventilation.  Pt doing
   well on NC 6L.  Patient is on 2L NC at home
   - albuterol nebs @ q4h.
   - Cont. diuresis, volume goal -1.5 x 24 hrs.  Continue lasix 20 mg PO
   BID
    - Cont. Predisone taper to 10 mg
   - [**Hospital1 **] flovent in addition to home regimen montelukast, levalbuterol,
   tiotropium.
   - Patient is s/p 7 day course of levofloxacin for pneumonia.
   #leukocytosis
 patient has increasing WBC, but no localizing sx and
   feels best she has in many days. CXR neg.
   -Continue to trend.
    .
   #Delirium
 [**12-29**] combination hypercarbia, steroids, sundowning
   improved today.
   -zyprexa zydis PRN
   -continue steroid taper
   -ventilate as above
   -frequent reorientation, reassurance
   #HTN/Tachycardia
   - on lisinopril 40mg daily
   - diltiazem increase to 60mg po qid
   .
   # CAD s/p MI's.
    - Continue plavix, statin
   .
   # Gastritis. Continue PPI.
   .
   # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   -          Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Prophylaxis: SQH, PPI, bowel regimen
   .
   # F/E/N:  Nutrition consult
 follow up on recs.
 start high protein shakes
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Full
    .
   # Dispo: talk to case management re: d/c directly to rehab possibly
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-06-02 11:47:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2205-6-1**] 02:00 PM
 NON-INVASIVE VENTILATION - STOP [**2205-6-1**] 02:58 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2205-5-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2205-6-1**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2205-6-2**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2205-6-2**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 114 (107 - 123) bpm
   BP: 122/47(66) {103/34(51) - 142/78(84)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 48.8 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    850 mL
                                                                    500 mL
   PO:
                                                                    750 mL
                                                                    500 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    502 mL
   Urine:
                                                                  1,335 mL
                                                                    502 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -485 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/66/85.[**Numeric Identifier 128**]/39/16
   Ve: 12.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   holosyst
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : few mid insp, Wheezes :
   scattered)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   322 K/uL
   101 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.8 mEq/L
   26 mg/dL
   95 mEq/L
   142 mEq/L
   37.8 %
   20.9 K/uL
        [image002.jpg]
                             [**2205-5-30**]  05:25 AM
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
   WBC
   13.6
   15.7
   20.9
   Hct
   36.9
   39.8
   37.8
   Plt
   [**Telephone/Fax (3) 3499**]
   Cr
   0.6
   0.7
   0.8
   0.7
   1.1
   TCO2
   42
   48
   44
   46
   Glucose
   94
   98
   95
   182
   101
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:93.8 %, Band:0.0 %, Lymph:2.5
   %, Mono:3.5 %, Eos:0.2 %, Ca++:10.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   COPD
   Acute on chronic respiratory failure
   CHF - chronic systolic
   MR
   Protein malnourishment
   Anemia
   She has substantially improved but remains v fragile. We have reached
   limits of diuresis as BUN and creat have started to incr.  Will need
   standing lasix and may benefit from more afterload reduction.  Will
   encourage calorie and protein intake. Will attempt to d/c to rehab as
   she will likely continue to need intermit mask ventilation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2205-06-03 07:04:00 Physician Resident Progress Note
Chief Complaint: COPD exacerbation
   24 Hour Events: none
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2205-5-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-6-2**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   c/o constant, crampy abdominal pain, partially relieved with BM
   Flowsheet Data as of  [**2205-6-3**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 97 (91 - 121) bpm
   BP: 122/46(60) {96/36(52) - 123/86(91)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.8 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    750 mL
                  PO:
                                                                    700 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    852 mL
                                                                    215 mL
   Urine:
                                                                    852 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ to deep
   palp
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   323 K/uL
   11.5 g/dL
   107 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.2 mEq/L
   29 mg/dL
   96 mEq/L
   141 mEq/L
   36.6 %
   22.0 K/uL
        [image002.jpg]
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
                             [**2205-6-3**]  05:10 AM
   WBC
   15.7
   20.9
   22.0
   Hct
   39.8
   37.8
   36.6
   Plt
   [**Telephone/Fax (3) 3507**]
   Cr
   0.7
   0.8
   0.7
   1.1
   1.1
   TCO2
   42
   48
   44
   46
   Glucose
   98
   95
   182
   101
   107
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation,
   now extubated with adequate oxygenation on NC.
   .
   # COPD exacerbation
 Unclear whether this occurred in the setting of
   respiratory infection or, more likely, CHF/volume overload, or both.
   Was extubated to non-invasive ventilation following aggressive diuresis
   and a 7 day course of antibiotics, now adeq. O2 sat on 4L NC (on 2L NC
   at home)
   - Change bronchodilator nebs to MDI
   - Cont. prednisone 10 mg (was on this dose on admission)
   - [**Hospital1 **] flovent
   .
   #Leukocytosis
 Afebrile, asymptomatic, no focal signs suggestive of
   infection. Cultures have been NTD. Steroids being tapered.
   -Continue to trend WBC, follow clinically
   .
   #Tachycardia
 HR 90-120s sinus tach; likely requires these rates to
   maintain CO given degree of MR; BP stable; low likelihood of suspicion
   for PE as not hypotensive and has been on PPx
   -will refrain from treating at this time
   .
   #Abd pain
 Appears to be chronic in nature, past extensive workups
   have been unrevealing; likely related to constipation
   -bowel regimen.
   .
   #HTN
 BP well-controlled on current regimen
   - lisinopril 40mg daily
   - diltiazem increase to 60mg po qid; can change to extended release
   dilt prior to d/c
   .
   # CAD s/p MI's.
    - Continue plavix, statin
   .
   # Gastritis. Continue PPI.
   .
   # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   -Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Prophylaxis: SQH, PPI, bowel regimen
   .
   # F/E/N:
 regular diet + high protein shakes
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Full
    .
   # Dispo: Being screened today for rehab placement
   ICU Care
   Nutrition: Regular diet + protein shakes
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2205-06-03 11:35:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better overnight. No time on mask ventilation last 24 hrs.  C/O
   continued abd pain
   24 Hour Events:
                       History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea, Wheeze
   Pain: [**11-28**] Minimal
   Pain location: abd
   Flowsheet Data as of  [**2205-6-3**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 108 (91 - 121) bpm
   BP: 98/35(51) {92/35(51) - 122/86(91)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 48.8 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    750 mL
                                                                    150 mL
   PO:
                                                                    700 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    852 mL
                                                                    255 mL
   Urine:
                                                                    852 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished, Anxious, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : mid insp, Wheezes : ,
   Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   323 K/uL
   107 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.2 mEq/L
   29 mg/dL
   96 mEq/L
   141 mEq/L
   36.6 %
   22.0 K/uL
        [image002.jpg]
                             [**2205-5-30**]  09:13 AM
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
                             [**2205-6-3**]  05:10 AM
   WBC
   15.7
   20.9
   22.0
   Hct
   39.8
   37.8
   36.6
   Plt
   [**Telephone/Fax (3) 3507**]
   Cr
   0.7
   0.8
   0.7
   1.1
   1.1
   TCO2
   42
   48
   44
   46
   Glucose
   98
   95
   182
   101
   107
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Acute on chronic respiratory failure
   COPD
   CHF
   MR
   Anemia
   Anxiety
   Continuing to improve and went 24 h w/o mask ventilation.  Subjectively
   moving in right direction.  Volume status appears well controlled - we
   are not pushing diuresis or rate control as she seems to be improving
   w/o further rx of her CHF.  Hct stable. We are reimplementing her usual
   pain meds as she continues to have abd pain but exam is benign.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 45 minutes
   Patient is critically ill

2205-06-04 07:04:00 Physician Resident Progress Note
Chief Complaint: COPD flare
   24 Hour Events:
   plan to go to NE Siani in [**Doctor Last Name 3513**] today.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-6-4**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 90 (88 - 113) bpm
   BP: 108/47(63) {98/32(49) - 146/60(74)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.8 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    920 mL
                                                                    100 mL
   PO:
                                                                    670 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    300 mL
   Urine:
                                                                    630 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   10.5 g/dL
   97 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   140 mEq/L
   34.3 %
   23.2 K/uL
        [image002.jpg]
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
                             [**2205-6-3**]  05:10 AM
                             [**2205-6-4**]  04:02 AM
   WBC
   15.7
   20.9
   22.0
   23.2
   Hct
   39.8
   37.8
   36.6
   34.3
   Plt
   [**Telephone/Fax (3) 3522**]10
   Cr
   0.7
   0.8
   0.7
   1.1
   1.1
   0.8
   TCO2
   48
   44
   46
   Glucose
   98
   95
   182
   101
   107
   97
   Other labs: PT / PTT / INR:11.7/25.7/1.0,
   CK / CKMB / Troponin-T:33/3/0.03,
   Differential-Neuts:83.0 %, Band:2.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:1.0
   %,
    Ca++:9.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   61 yo F with a history of CAD and COPD with multiple prior intubations
   for COPD flares admitted with respiratory failure requiring intubation,
   now extubated with adequate oxygenation on NC.
   .
   # COPD exacerbation
 Unclear whether this occurred in the setting of
   respiratory infection or, more likely, CHF/volume overload, or both.
   Was extubated to non-invasive ventilation following aggressive diuresis
   and a 7 day course of antibiotics, now adeq. O2 sat on 4L NC (on 2L NC
   at home)
   - Change bronchodilator nebs to MDI
   - Cont. prednisone 10 mg (was on this dose on admission)
   - [**Hospital1 **] flovent
   .
   #Leukocytosis
 Afebrile, asymptomatic, no focal signs suggestive of
   infection. Cultures have been NTD. Steroids being tapered.
   -Continue to trend WBC, follow clinically
   .
   #Tachycardia
 HR 90-120s sinus tach; likely requires these rates to
   maintain CO given degree of MR; BP stable; low likelihood of suspicion
   for PE as not hypotensive and has been on PPx
   -will refrain from treating at this time
   .
   #Abd pain
 Appears to be chronic in nature, past extensive workups
   have been unrevealing; likely related to constipation
   -bowel regimen.
   .
   #HTN
 BP well-controlled on current regimen
   - lisinopril 40mg daily
   - diltiazem increase to 60mg po qid; can change to extended release
   dilt prior to d/c
   .
   # CAD s/p MI's.
    - Continue plavix, statin
   .
   # Gastritis. Continue PPI.
   .
   # Osteoporosis, with history of multiple compression and rib fractures
   from coughing
   -Continue home vitamin D supplementation.
   .
   # History of thrush/[**Female First Name (un) 188**] esophagitis [**12-29**] steroid therapy. Monitor
   closely for signs of thrush.
   .
   # Depression. Continue home paroxetine and olanzapine.
   .
   # Prophylaxis: SQH, PPI, bowel regimen
   .
   # F/E/N:
 regular diet + high protein shakes
   .
   # Access: Peripheral IV's. PICC.
   .
   # Contact: [**Name (NI) 3418**], daughter (w) [**Telephone/Fax (1) 3419**]; [**Location (un) 378**], daughter (c)
   [**Telephone/Fax (1) 3420**], (w) [**2204**].
   .
   # Code: Full
    .
   # Dispo: Being screened today for rehab placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2205-06-04 11:18:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continuing to improve. Need for neb once overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2205-6-4**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 106 (88 - 113) bpm
   BP: 97/36(52) {97/32(49) - 146/60(74)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 48.8 kg (admission): 52 kg
   Height: 62 Inch
                  Total In:
                                                                    920 mL
                                                                    250 mL
   PO:
                                                                    670 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    420 mL
   Urine:
                                                                    630 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///38/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Loud)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Wheezes : scattered), Prolonged
   exhalation
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   310 K/uL
   97 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   140 mEq/L
   34.3 %
   23.2 K/uL
        [image002.jpg]
                             [**2205-5-31**]  05:10 AM
                             [**2205-5-31**]  08:58 AM
                             [**2205-5-31**]  04:05 PM
                             [**2205-5-31**]  06:32 PM
                             [**2205-6-1**]  03:30 AM
                             [**2205-6-1**]  06:56 PM
                             [**2205-6-1**]  07:00 PM
                             [**2205-6-2**]  04:11 AM
                             [**2205-6-3**]  05:10 AM
                             [**2205-6-4**]  04:02 AM
   WBC
   15.7
   20.9
   22.0
   23.2
   Hct
   39.8
   37.8
   36.6
   34.3
   Plt
   [**Telephone/Fax (3) 3522**]10
   Cr
   0.7
   0.8
   0.7
   1.1
   1.1
   0.8
   TCO2
   48
   44
   46
   Glucose
   98
   95
   182
   101
   107
   97
   Other labs: PT / PTT / INR:11.7/25.7/1.0, CK / CKMB /
   Troponin-T:33/3/0.03, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:9.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   COPD
   Acute on chronic respiratory failure
   CHF
   MR
   Anemia
   Continuing to improve.  Now near, but not at baseline.  Prednisone now
   back to outpatient level.  Now on stable cardiac meds - may benefit
   from echo now that she has been diuresed back to dry weight.  Discharge
   today to rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2205-5-27**] 10:00 AM
   Comments: To be removed today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes